US05239075
C. (5S)-5,6,7,8,9,10-hexahydro 8-hydroxy-2-chloro-5,8-dimethyl-5,9-methanobenzocycloocten-11-one
To a stirred solution of 1-methyl-2-(α-methylbenzylamino)-6-chloro-1,2-didehydrotetralin (79 g; 0.25 mol.) in 500 mL of THF was added methyl vinyl ketone (23 mL; 0.28 mol.). The solution was stirred at ambient temperature, under argon atmosphere, in the dark for 96 hours. Aqueous acetic acid (20%, 500 mL ) was added and the mixture stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with saturated Na2CO3, and dried over Na2SO4. The solvent was removed under vacuum to afford 82 g of the subtitle compound as brown oil which was used without further purification.

reactant | 1-methyl-2-(α-methylbenzylamino)-6-chloro-1,2-didehydrotetralin | 0.25 mol, 79 g | CC1=C(CCC2=CC(=CC=C12)Cl)NC(C1=CC=CC=C1)C | C19H20ClN
reactant | methyl vinyl ketone | 0.28 mol, 23 mL | C(=C)C(=O)C | C4H6O
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (5S)-5,6,7,8,9,10-hexahydro 8-hydroxy-2-chloro-5,8-dimethyl-5,9-methanobenzocycloocten-11-one | 82 g | OC1(CC[C@]2(C3=C(CC1C2=O)C=C(C=C3)Cl)C)C | C15H17ClO2
